US07666871B2
5-(4-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-phenyl)-pyrimidine
The title compound is prepared in a manner substantially analogous to example 133 starting from 5-pyrimidine boronic acid (178 mg, 1.43 mmol) and 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 mmol) to give 40 mg (40%). MS (m/e) 349.3 (M+1)

reactant | 5-pyrimidine boronic acid | 1.43 mmol, 178 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 0.287 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
product | 5-(4-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-phenyl)-pyrimidine | CC1=C(N=C(O1)C1=CC=C(C=C1)C=1C=NC=NC1)CCN1[C@@H](CCC1)C | C21H24N4O
